* OPA863 - Rev. D
* Created by Hasan Babiker; 2021-04-29
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2021 by Texas Instruments Corporation
*****************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
*****************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt OPA863 IN+ IN- VCC VEE OUT
******************************************************
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C1         MID CLAMP  1.13E-8   
C_C10         MID N42834  1E-15   
C_C11         N44757 MID  1E-15   
C_C12         MID N45892  1E-15   
C_C13         N45974 MID  1E-15   
C_C14         MID N56659  1E-15   
C_C15         N56721 MID  1E-15   
C_C16         MID N61579  1E-15   
C_C1A1         N1995214 N1995224  1.592E-8   
C_C1A10         N2002402 N2002412  3.003E-11   
C_C1A11         N1512546 N1512576  1.713E-3   
C_C1A12         MID N1512158  1.592E-13   
C_C1A2         N1995184 N1475322  1.061E-11   
C_C1A25         N1511964 N1512116  1.73E-7   
C_C1A26         N1512818 N1511934  1.592E-13   
C_C1A8         N1999301 N706294  1.447E-8   
C_C1A9         N2002382 N709248  1.576E-14   
C_C33         N406634 0  1E-15   
C_C34         N317950 0  1U   
C_C35         N406794 0  1E-15   
C_C36         N1548814 N1548992  7.958E-13   
C_C37         N1549138 N1549254  7.958E-13   
C_C38         N1566698 N1566638  4.547E-11   
C_C39         N1566868 N1566646  1.592E-13   
C_C40         N1573384 N1573324  4.547E-11   
C_C41         N1573556 N1573332  1.592E-13   
C_C43         MID N1897556  4.45E-13   
C_C44         MID N1901998  4.45E-13   
C_C45         MID N1902704  4.45E-13   
C_C46         MID N886969  4.45E-13   
C_C7         N31014 MID  1E-15   
C_C8         MID N35813  1E-15   
C_C9         MID N38096  1E-15   
C_C_CMN         MID ESDN  0.877E-12   
C_C_CMP         ESDP MID  0.877E-12   
C_C_DIFF         ESDN ESDP  0.3E-12   
C_C_VIMON         MID VIMON  1E-12   
C_C_VOUT_S         MID VOUT_S  1E-12   
E_E1         N1566698 MID N1566688 MID 1.429E3
E_E10         NOISE_OUT N1549078 N1549254 MID 1
E_E3         N112292 MID OUT MID 1
E_E6         MID 0 N317950 0 1
E_E7         N1566868 MID N1566638 MID 5
E_E8         N1573384 MID N1573374 MID 1.429E3
E_E9         N1573556 MID N1573324 MID 5
G_G1         N1512546 MID CL_CLAMP N896131 -90.91
G_G10         N2002382 MID N2002412 MID -2.97E2
G_G11         N2002402 MID VCC_B MID -1.687E-3
G_G12         N1897556 MID CLAMP MID -1E-3
G_G15         CLAW_CLAMP MID VSENSE MID -1E-3
G_G16         CL_CLAMP MID CLAW_CLAMP MID -1E-3
G_G2         CMRR_2 N10561 N1475322 MID -1E-3
G_G3         N1995184 MID N1995224 MID -6.667E7
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G4         N1511942 MID N1512116 MID -3.098E1
G_G6         N25816 N11984 N709248 N706294 -1E-3
G_G75         N1512818 MID N1512134 MID -1
G_G76         N1511964 MID N1512576 MID -8.496E5
G_G78         N1548814 MID N1548704 MID -1.75E-4
G_G8         VCC_CLP MID N35813 MID -1E-3
G_G81         N1549138 MID N1548992 MID -1
G_G82         NOISE_OUT MID N1566646 MID 1E-10
G_G83         ESDN MID N1573332 MID 1E-10
G_G84         VSENSE MID N886969 MID -1E-3
G_G85         N1901998 MID N1897556 MID -1E-3
G_G86         N1902704 MID N1901998 MID -1E-3
G_G87         N886969 MID N1902704 MID -1E-3
G_G88         N1995214 MID ESDP MID -2.626E-8
G_G89         N1999301 MID VEE_B MID -4.257E1
G_G9         VEE_CLP MID N38096 MID -1E-3
I_I_B         MID NOISE_OUT DC 300E-9  
I_I_OS         MID ESDN DC 290E-9  
I_I_Q         VCC VEE DC 750E-6  
R_R1         ESDP IN+ R_NOISELESS 10E-3
R_R10         ESDN N11991 R_NOISELESS 1E-3
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R11         N2002402 MID R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R161         MID ESDP R_NOISELESS 650.9E6
R_R169         ESDN MID R_NOISELESS 650.9E6
R_R170         ESDP ESDN R_NOISELESS 206.9E3
R_R176         MID N1511964 R_NOISELESS 1
R_R177         N1512158 N1512134 R_NOISELESS 10E3
R_R178         MID N1511942 R_NOISELESS 1
R_R179         MID N1512546 R_NOISELESS 1
R_R180         MID N1512280 R_NOISELESS 1
R_R181         MID N1512818 R_NOISELESS 1
R_R182         MID N1548704  1E12 TC=0,0 
R_R183         MID N1566688  1E12 TC=0,0 
R_R184         MID N1573374  1E12 TC=0,0 
R_R190         MID VSENSE R_NOISELESS 1E3
R_R191         MID N1897556 R_NOISELESS 1E3
R_R192         MID N1901998 R_NOISELESS 1E3
R_R193         MID N1902704 R_NOISELESS 1E3
R_R194         MID N886969 R_NOISELESS 1E3
R_R198         N1995214 MID R_NOISELESS 1
R_R199         N1999301 MID R_NOISELESS 1
R_R1A1         N1995214 N1995224 R_NOISELESS 1E8
R_R1A10         N2002402 N2002412 R_NOISELESS 1E8
R_R1A11         N1512116 N1511964 R_NOISELESS 10E3
R_R1A12         N1512576 N1512546 R_NOISELESS 10E3
R_R1A13         N1511934 N1512818 R_NOISELESS 10E3
R_R1A14         N1999301 N706294 R_NOISELESS 1E8
R_R1A2         N1995184 N1475322 R_NOISELESS 1E8
R_R1A9         N2002382 N709248 R_NOISELESS 1E8
R_R2         ESDN IN- R_NOISELESS 10E-3
R_R200         N2002382 MID R_NOISELESS 1
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R27         MID N30913 R_NOISELESS 1
R_R28         N31014 N30913 R_NOISELESS 1E-3
R_R29         N35669 VCC_B R_NOISELESS 1E3
R_R2A1         N1995224 MID R_NOISELESS 1.001E5
R_R2A10         N2002412 MID R_NOISELESS 1.767E2
R_R2A12         MID N1512576 R_NOISELESS 1.177E-2
R_R2A2         N1475322 MID R_NOISELESS 1.5
R_R2A21         MID N1512116 R_NOISELESS 3.336E2
R_R2A22         MID N1511934 R_NOISELESS 2E4
R_R2A8         N706294 MID R_NOISELESS 1.1E-2
R_R2A9         N709248 MID R_NOISELESS 3.378E5
R_R3         N1995184 MID R_NOISELESS 1
R_R30         N35813 N35669 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N38050 VEE_B R_NOISELESS 1E3
R_R33         N38096 N38050 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R35         MID VCC_CLP R_NOISELESS 1E9
R_R36         N42663 MID R_NOISELESS 1
R_R37         N42834 N42663 R_NOISELESS 1E-3
R_R38         N44757 N44799 R_NOISELESS 1E-3
R_R39         MID N44799 R_NOISELESS 1
R_R40         MID VEE_CLP R_NOISELESS 1E9
R_R41         MID N50645 R_NOISELESS 1E9
R_R42         N45856 MID R_NOISELESS 1
R_R43         N45892 N45856 R_NOISELESS 1E-3
R_R44         N45974 N45986 R_NOISELESS 1E-3
R_R45         MID N45986 R_NOISELESS 1
R_R46         MID N48550 R_NOISELESS 1E9
R_R49         MID N56919 R_NOISELESS 1E9
R_R50         N56635 MID R_NOISELESS 1
R_R51         N56659 N56635 R_NOISELESS 1E-3
R_R52         N56721 N56733 R_NOISELESS 1E-3
R_R53         MID N56733 R_NOISELESS 1
R_R54         MID N56891 R_NOISELESS 1E9
R_R55         N61579 VSENSE R_NOISELESS 1E-3
R_R6         N1512134 N1511942 R_NOISELESS 2.4E5
R_R60         MID AOLNET R_NOISELESS 1E6
R_R61         MID CLAMP R_NOISELESS 1E6
R_R65         MID CLAW_CLAMP R_NOISELESS 1E3
R_R66         MID CL_CLAMP R_NOISELESS 1E3
R_R8         N10561 CMRR_2 R_NOISELESS 1E3
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         CMRR_2 N11984 R_NOISELESS 1E-3
R_RDUMMY         MID N896131 R_NOISELESS 2.37E7
R_RL1         N1548814 MID R_NOISELESS 1
R_RL10         N1566698 N1566638 R_NOISELESS 10E3
R_RL11         MID N1566638 R_NOISELESS 7.005
R_RL12         N1566868 N1566646 R_NOISELESS 10E3
R_RL13         MID N1566646 R_NOISELESS 2.5E3
R_RL14         N1573384 N1573324 R_NOISELESS 10E3
R_RL15         MID N1573324 R_NOISELESS 7.005
R_RL16         N1573556 N1573332 R_NOISELESS 10E3
R_RL17         MID N1573332 R_NOISELESS 2.5E3
R_RL3         N1548814 N1548992 R_NOISELESS 10E3
R_RL4         MID N1548992 R_NOISELESS 7.407E3
R_RL6         N1549138 MID R_NOISELESS 1
R_RL7         N1549138 N1549254 R_NOISELESS 10E3
R_RL8         MID N1549254 R_NOISELESS 7.407E3
R_RX         N896131 N1512280 R_NOISELESS 2.37E8
R_R_VIMON         VIMON N110431 R_NOISELESS 300
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 300
V_VCM_MAX         N30136 VCC_B -0.12121
V_VCM_MIN         N28602 VEE_B 0.12873
V_V_GRN         N56891 MID -1.1E5
V_V_GRP         N56919 MID 1.1E5
V_V_ISCN         N48550 MID -45
V_V_ISCP         N50645 MID 45
X_AOL_1         N31014 N11991 MID AOLNET AOL_1 
X_CLAWN         MID VIMON VEE_B N38050 CLAWN_OPA863 
X_CLAWP         VIMON MID N35669 VCC_B CLAWP_OPA863 
X_CLAW_AMP         VCC_CLP VEE_CLP VOUT_S MID N42663 N44799 CLAMP_AMP_LO_OPA863 
X_CLAW_SRC         N42834 N44757 CLAW_CLAMP MID CLAW_SRC_OPA863 
X_CL_AMP         N50645 N48550 VIMON MID N45856 N45986 CLAMP_AMP_LO_OPA863 
X_CL_SRC         N45892 N45974 CL_CLAMP MID CL_SRC_OPA863 
X_ESD_IN         ESDN ESDP VCC VEE ESD_IN_OPA863 
X_ESD_OUT         OUT VCC VEE ESD_OUT_OPA863 
X_GR_AMP         N56919 N56891 N61579 MID N56635 N56733 CLAMP_AMP_HI_OPA863 
X_GR_SRC         N56659 N56721 CLAMP MID GR_SRC_OPA863 
X_H3    OUT N896131 N110431 MID 08_OP_AMP_COMPLETE_H3_OPA863 
X_IQ_N         MID VIMON MID VEE IQ_SRC_OPA863 
X_IQ_P         VIMON MID VCC MID IQ_SRC_OPA863 
X_I_NN         ESDN MID FEMT_OPA863 
X_I_NN1         ESDN MID FEMT2_OPA863 
X_I_NP         NOISE_OUT MID FEMT_OPA863 
X_S2    ESDN ESDP ESDN ESDP 08_OP_AMP_COMPLETE_S2_OPA863 
X_S3    ESDP ESDN ESDP ESDN 08_OP_AMP_COMPLETE_S3_OPA863 
X_U1         ESDP N1549078 VNSE_OPA863 
X_U2         AOLNET MID CLAMP MID AOL_2_OPA863 
X_U3         MID NOISE_OUT VCC VEE IB_VS_VCM_OPA863 
X_U4         MID ESDN VCC VEE IB_VS_VCM_OPA863 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_OPA863 
X_VOS_DRIFT         N1580058 NOISE_OUT VOS_DRIFT_OPA863 
X_VOS_VS_VCM         N10561 N1580058 VCC VEE VOS_VS_VCM_OPA863 
X_ZO_SRC1         N1511934 MID MID N1512280 ZO_SRC_OPA863 

*
.SUBCKT 08_OP_AMP_COMPLETE_H3_OPA863 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H3_OPA863
*
.SUBCKT 08_OP_AMP_COMPLETE_S2_OPA863 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=50 VOFF=0.9 VON=1
.ENDS  08_OP_AMP_COMPLETE_S2_OPA863
*
.SUBCKT 08_OP_AMP_COMPLETE_S3_OPA863 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH ROFF=1E12 RON=50 VOFF=0.9 VON=1
.ENDS  08_OP_AMP_COMPLETE_S3_OPA863
*
.SUBCKT AOL_1 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1
*
.SUBCKT AOL_2_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = -37.01776E-3
.PARAM IPOS = 1.2
.PARAM INEG = -1.2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA863
*
.SUBCKT CLAMP_AMP_HI_OPA863 VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPA863
*
.SUBCKT CLAMP_AMP_LO_OPA863 VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPA863
*
.SUBCKT CLAWN_OPA863 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(2.43563, 1.29E-4)
+(9.6335, 1.83E-4)
+(30, 3.38E-4)
.ENDS  CLAWN_OPA863
*
.SUBCKT CLAWP_OPA863 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(2.4394, 1.21E-4)
+(5.10763, 1.48E-4)
+(9.6239, 1.88E-4)
+(30, 3.7E-4)
.ENDS  CLAWP_OPA863
*
.SUBCKT CLAW_SRC_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 20
.PARAM INEG = -20
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPA863
*
.SUBCKT CL_SRC_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 40
.PARAM INEG = -40
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPA863
*
.SUBCKT ESD_IN_OPA863 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 VCC ESDN ESDN VCC ESD_SW
S2 VCC ESDP ESDP VCC ESD_SW
S3 ESDN VEE VEE ESDN ESD_SW
S4 ESDP VEE VEE ESDP ESD_SW
.ENDS  ESD_IN_OPA863
*
.SUBCKT ESD_OUT_OPA863 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ENDS  ESD_OUT_OPA863
*
.SUBCKT FEMT_OPA863 1 2
.PARAM FLWF=0.1
.PARAM NLFF=24.67E3
.PARAM NVRF=286.6
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_OPA863
*
.SUBCKT FEMT2_OPA863 1 2
.PARAM FLWF=0.1
.PARAM NLFF=3.47E4
.PARAM NVRF=314
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT2_OPA863
*
.SUBCKT GR_SRC_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 3
.PARAM INEG = -3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPA863
*
.SUBCKT IB_VS_VCM_OPA863 V+ V- REF+ REF-
G1 V+ V- TABLE {(V(REF+, V-))} =
+(-0.2, -525E-9)
+(0.95, -525E-9)
+(1.5, 0)
I1 V+ V- 0
.ENDS  IB_VS_VCM_OPA863
*
.SUBCKT IQ_SRC_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPA863
*
.SUBCKT VCM_CLAMP_OPA863 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA863
*
.SUBCKT VNSE_OPA863 1 2
.PARAM FLW=1
.PARAM NLF=42.18
.PARAM NVR=4.3
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA863
*
.SUBCKT VOS_DRIFT_OPA863 VOS+ VOS-
.PARAM DC = 199.7586E-6
.PARAM POL = 1
.PARAM DRIFT = 1.5E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPA863
*
.SUBCKT VOS_VS_VCM_OPA863 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(-0.2, -73.684E-6)
+(0.95, -73.684E-6)
+(1.5, 0)
V1 1 V- 0
.ENDS  VOS_VS_VCM_OPA863
*
.SUBCKT ZO_SRC_OPA863 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1.5
.PARAM IPOS = 2E7
.PARAM INEG = -2E7
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPA863
*
.ENDS  OPA863